US04057573
26.6 g of finely powdered aluminium chloride are added in portions to a solution of 10 g of 6-methoxy-1,2,3,4-tetrahydro-1-naphthyl-acetic acid ethyl ester in 50 ml of absolute methylene chloride whilst stirring at 5° C, and thereafter 16.9 g of benzoyl chloride are added sufficiently slowly that the reaction solution boils gently under reflux. After completion of the addition, the reaction mixture is allowed to boil for a further 30 minutes and is then allowed to cool to room temperature, after which it is poured onto 300 g of ice. The mixture is extracted with 3 times 100 ml of methylene chloride and the organic phases are washed until neutral, dried over sodium sulphate and evaporated to dryness in vacuo. Chromatography of the evaporation residue on 500 g of silica gel, using methylene chloride as the eluting agent, gives 6-hydroxy-7-benzoyl-1,2,3,4-tetrahydro-1-naphthylacetic acid ethyl ester of boiling point 190° C/0.04 mm Hg.

reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-methoxy-1,2,3,4-tetrahydro-1-naphthyl-acetic acid ethyl ester | 10 g | C(C)OC(CC1CCCC2=CC(=CC=C12)OC)=O | C15H20O3
reactant | benzoyl chloride | 16.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-7-benzoyl-1,2,3,4-tetrahydro-1-naphthylacetic acid ethyl ester | C(C)OC(CC1CCCC2=CC(=C(C=C12)C(C1=CC=CC=C1)=O)O)=O | C21H22O4
